US04867915
10.24 ml (15.15 g, 0.1323 mol) of 2-butyne-1,4-diol monotetrahydropyranyl ether was added dropwise to a solution of 15 g (0.088 mol) of methanesulfonyl chloride and 19.79 ml (14.25 g, 0.141 mol) of triethylamine in 250 ml of anhydrous methylene chloride at such a rate to maintain the reaction temperature at 0° C. The reaction mixture was stirred for 30 minutes further at 0° C. Then the reaction mixture was poured into 200 ml of aqueous saturated sodium bicarbonate solution and extracted with methylene chloride. The combined organic extracts were dried over sodium sulfate and the solvent removed in vacuo, to yield crude 4-tetrahydropyranyloxy-butyn-1-ol methanesulfonate. This crude product was dissolved in 50 ml of acetone and treated with a solution of 40.34 g (0.4636 mol) of lithium bromide in 200 ml of acetone, stirring the reaction mixture at room temperature for 1 hour. The solvent was then evaporated and the residue diluted with water (100 ml) and extracted with methylene chloride, the organic extracts were dried over sodium sulfate and evaporated in vacuo. The crude material was purified bysilica gel column chromatography using hexane:ethyl acetate (95:5) as eluant to yield 1-bromobut-2-yn-4-ol-tetrahydropyranyl ether, as an oil.

reactant | 2-butyne-1,4-diol monotetrahydropyranyl ether | 0.1323 mol, 10.24 ml, 15.15 g | O1C(CCCC1)OCC#CCO | C9H14O3
reactant | methanesulfonyl chloride | 0.088 mol, 15 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.141 mol, 19.79 ml, 14.25 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-tetrahydropyranyloxy-butyn-1-ol methanesulfonate | CS(=O)(=O)OC#CCCOC1OCCCC1 | C10H16O5S
